US09376422B2
To stirred solution of 5-bromo-2-methyl-3-nitrobenzoic acid, prepared analogously to above, (287 g, 1103 mmol) in DMF (150 mL), sodium carbonate (468 g, 4415 mmol) and methyl iodide (626.6 g, 4415 mmol) were added. Resulting mixture was heated at 60° C. for 8 h. On completion, solid was remove by filtration, and the residue washed with diethyl ether (5 times). The combined organic layers were dried, concentrated under reduced pressure to give methyl 5-bromo-2-methyl-3-nitrobenzene (302 g, 99%).

reactant | 5-bromo-2-methyl-3-nitrobenzoic acid | BrC=1C=C(C(=C(C(=O)O)C1)C)[N+](=O)[O-] | C8H6BrNO4
reactant | sodium carbonate | 4415 mmol, 468 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl iodide | 4415 mmol, 626.6 g | CI | CH3I
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | methyl 5-bromo-2-methyl-3-nitrobenzene | 302 g, 99% | CC1=C(C(=CC(=C1)Br)[N+](=O)[O-])C | C8H8BrNO2
